US06448261B1
6-Methyl-3-nitro-4-(1-propylbutylamino)pyridone
4-Chloro-6-methyl-3-nitropyridone (2.9 g, 15.40 mmol) was treated with 1-propylbutylamine (4 mL, 26.8 mmol) in CH3CN (30 mL) at 25° C. for 64 h and at reflux for 2 h. The reaction mixture was partitioned between EtOAc (200 mL) and water (50 mL). The EtOAc was washed with water (2×50 mL), brine, dried (MgSO4) and stripped in vacuo. The residue was washed with 20% EtOAc/hexanes (2×20 mL) to give the product (3.7 g).

reactant | 4-Chloro-6-methyl-3-nitropyridone | 15.40 mmol, 2.9 g | ClC1=C(C(NC(=C1)C)=O)[N+](=O)[O-] | C6H5ClN2O3
reactant | 1-propylbutylamine | 26.8 mmol, 4 mL | C(CC)C(CCC)N | C7H17N
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | 6-Methyl-3-nitro-4-(1-propylbutylamino)pyridone | 3.7 g | CC1=CC(=C(C(N1)=O)[N+](=O)[O-])NC(CCC)CCC | C13H21N3O3
